Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with CHF, recent E coli UTI living in ___, who presents with 
hematuria, hypotension, and altered mental status.  
 On arrival to the ED ___ was found to be obtunded and 
hypoglycemic, requiring multiple amps of d50, eventually placed 
on d10 gtt with improvement in MS. ___ was found to have multiple 
severe metabolic derangements including hyperkalemia, ___, 
rising troponins, and LFT abnormalities. Lactate 8.1, VBG pH 
7.15. UA positive and CXR showed layering right pleural 
effusion. Given 1 L NS and with worsening JVP elevation 
subsequently. Started on broad spectrum antibiotics and 
levophed.  
 The patient's family was contacted and decided to make the 
patient comfortable. Levophed was turned off, continued with D10 
while family at bedside. Morphine was given for pain.  
 
Past Medical History:
- CHF, NOS  
- UTIs  
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
Vital Signs: deferred given CMO status  
 General: intermittently alert, comfortable  
 Pulmonary: breathing comfortably  
 Extremities: warm, small blood from prior IO placed in L tibia  


DISCHARGE PHYSICAL EXAM:
========================
Vitals: RR: ___
 General: Opens eyes to voice with blank stare. Appears 
comfortable, Mouth open and has rattling cough
 Pulmonary: Mild tachypnea 
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:00PM BLOOD WBC-16.2* RBC-3.23* Hgb-10.0* Hct-33.0* 
MCV-102* MCH-31.0 MCHC-30.3* RDW-20.7* RDWSD-74.7* Plt Ct-99*
___ 12:00PM BLOOD Neuts-81.0* Lymphs-5.9* Monos-11.8 
Eos-0.0* Baso-0.2 NRBC-0.2* Im ___ AbsNeut-13.14* 
AbsLymp-0.95* AbsMono-1.92* AbsEos-0.00* AbsBaso-0.03
___ 12:00PM BLOOD ___ PTT-29.3 ___
___ 12:00PM BLOOD Glucose-88 UreaN-41* Creat-2.7* Na-138 
K-6.2* Cl-99 HCO3-13* AnGap-32*
___ 12:00PM BLOOD ALT-528* AST-538* AlkPhos-103 
TotBili-2.3*
___ 12:00PM BLOOD Albumin-3.7 Calcium-9.2 Phos-6.8* Mg-2.7*
___ 01:02PM BLOOD ___ pO2-23* pCO2-41 pH-7.15* 
calTCO2-15* Base XS--16
___ 01:02PM BLOOD Lactate-8.1*

MICRO:
======
Urine culture: 
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      STAPH AUREUS COAG +.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
NITROFURANTOIN--------    32 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA----  <=10 S

Blood culture x2: NGTD

No further labs obtained given comfort focused care

 
Brief Hospital Course:
___ with CHF, recent E coli UTI living in ___, who presented to 
the ED with hematuria, hypotension, and altered mental status.  

On arrival to the ED ___ was found to be obtunded and 
hypoglycemic, requiring multiple amps of d50, eventually placed 
on d10 gtt with improvement in MS. ___ was found to have multiple 
severe metabolic derangements including hyperkalemia, ___, 
rising troponins, and LFT abnormalities. Lactate 8.1, VBG pH 
7.15. UA positive and CXR showed layering right pleural 
effusion. Given 1 L NS and with worsening JVP elevation 
subsequently. Started on broad spectrum antibiotics and 
levophed. The patient's family was contacted and decided to 
transition the patient to ___ care. Levophed was 
turned off, continued with D10 while family at bedside.  
Morphine was given for pain and ___ was admitted to medicine for 
further management of his symptoms. ___ was given medications as 
needed for pain, dyspnea and agitation and passed away 
peacefully on ___.
 
Medications on Admission:
Unknown.
 
Discharge Medications:
Patient passed away.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Primary:
Septic shock

 
Discharge Condition:
Expired.
 
Discharge Instructions:
Mr. ___ ___ with CHF, recent E coli UTI living in ___, who 
presents with hematuria, hypotension, and altered mental status. 
 
 On arrival to the ED ___ was found to be obtunded and 
hypoglycemic, requiring multiple amps of d50, eventually placed 
on d10 gtt with improvement in MS. ___ was found to have multiple 
severe metabolic derangements including hyperkalemia, ___, 
rising troponins, and LFT abnormalities. Lactate 8.1, VBG pH 
7.15. UA positive and CXR showed layering right pleural 
effusion. Given 1 L NS and with worsening JVP elevation 
subsequently. Started on broad spectrum antibiotics and 
levophed.  The patient's family was contacted and decided to 
make the patient comfortable. Levophed was turned off, continued 
with D10 while family at bedside. Morphine was given for pain.  
Patient died ___. 
 
Followup Instructions:
___